US05273999
A mixture of 1.47 g (5 mmol) of trifluoromethanesulfonic acid 2-oxo-2H-1-benzopyran-5-yl ester, 1.0 g (5.5 mmol) of rac-6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexyne, 75 mg of cuprous iodide, 0.3 g (0.428 mmol) of dichlorobis(triphenylphosphine)palladium (II), 7.5 mL of triethylamine, and 35 mL of dry N,N-dimethylformamide was stirred and heated at 100° C. for 24 hr. The reaction mixture was cooled, poured into water, and worked-up with ether in the usual manner. The dark-brown, oily residue was flash chromatographed on silica gel. Elution with 2:1 hexane-ethyl acetate gave 1.09 g (67%) of rac-5-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]-2H-1-benzopyran-2-one as an orange oil.

reactant | trifluoromethanesulfonic acid 2-oxo-2H-1-benzopyran-5-yl ester | 5 mmol, 1.47 g | O=C1OC2=C(C=C1)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C10H5F3O5S
reactant | rac-6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexyne | 5.5 mmol, 1.0 g | O1C(CCCC1)OCCCCC#C | C11H18O2
reactant | triethylamine | 7.5 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.428 mmol, 0.3 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | rac-5-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]-2H-1-benzopyran-2-one | 1.09 g, 67% | O1C(CCCC1)OCCCCC#CC1=CC=CC2=C1C=CC(O2)=O | C20H22O4
